US06586422B2
In an analogous manner as described in example 2, reaction of 3-methylsulfanyl-5-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile with dimethylamine (33% solution in absolute ethanol) in a sealed tube at 110° C. yielded 3-dimethylamino-5-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile as a light brown amorphous solid; MS: 295 (M+H)+.

reactant | 3-methylsulfanyl-5-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile | CSC=1N=NC(=C(N1)N1CCC2=C(CC1)C=CC=C2)C#N | C15H15N5S
reactant | dimethylamine | CNC | C2H7N
product | 3-dimethylamino-5-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile | CN(C=1N=NC(=C(N1)N1CCC2=C(CC1)C=CC=C2)C#N)C | C16H18N6
